US06573377B1
(1) 2-Amino-4,6-dihydroxy-5-methoxypyrimidine
A mixture composed of 12 g of guanidine hydrochloride, 9 g of sodium ethoxide and 100 ml of ethanol was heated under reflux for 1 hour, and then the reaction solution was cooled to room temperature, further mixed with 10 g of dimethyl methoxymalonate and heated under reflux for 48 hours. The reaction solution was cooled to room temperature, adjusted to a pH value of about 4 by adding 1 N hydrochloric acid solution and stirred, and then the thus precipitated powder was collected by filtration to obtain 2.0 g of the title compound.

reactant | guanidine hydrochloride | 12 g | Cl.NC(=N)N
reactant | sodium ethoxide | 9 g | [O-]CC.[Na+]
reactant | dimethyl methoxymalonate | 10 g | COC(C(=O)OC)C(=O)OC | C6H10O5
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Amino-4,6-dihydroxy-5-methoxypyrimidine | 2.0 g | NC1=NC(=C(C(=N1)O)OC)O | C5H7N3O3
